US05391743
III. Synthesis of 7-Hydroxyisoquinoline
To a 2-liter, 3-necked round bottom flask equipped with a magnetic stir bar and addition funnel is added 19.7 g (0.124 mole) 7-methoxyisoquinoline and 800 ml of dry dichloromethane. This solution is stirred and cooled to -75° C. with a dry ice/acetone bath, 628 ml (0.628 mole) of 1.0M boron tribromide in dichloromethane is added dropwise maintaining the temperature at -75° C. Thereafter the slurry is stirred for 18 hours allowing the temperature to rise to room temperature. The reaction slurry is poured into 1 liter of ice water and stirred for an hour. The layers are separated and the aqueous layer is then adjusted from acidic to neutral (pH 7) with 1N NaOH. A yellow solid precipitates and is filtered off, then air dried to yield 14.5 g of a yellow solid, 81%.

reactant | 7-methoxyisoquinoline | 0.124 mole, 19.7 g | COC1=CC=C2C=CN=CC2=C1 | C10H9NO
reactant | boron tribromide | 0.628 mole, 1.0M, 628 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
product | 7-Hydroxyisoquinoline | 14.5 g | OC1=CC=C2C=CN=CC2=C1 | C9H7NO
